US07125896B2
b) 4-[(4-Chlorophenyl)methoxy]phenyl acetone
Prepared from 4-chlorobenzyl chloride and 4-hydroxyphenyl acetone by the method of Example 2 (b).

reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | 4-hydroxyphenyl acetone | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
product | 4-[(4-Chlorophenyl)methoxy]phenyl acetone | ClC1=CC=C(C=C1)COC1=CC=C(C=C1)CC(C)=O | C16H15ClO2
